US08247401B2
Step D: Methyl 3-(5-methylpyridin-2-yl)-5-(4-methyl-4H-1,2,4-triazol-3-yl)benzoate
To a solution of methyl 3-[(methylamino)carbonothioyl]-5-(5-methylpyridin-2-yl)benzoate (0.90 g, 3.00 mmol) in THF (30 mL) was added formic hydrazide (0.54 g, 8.99 mmol) and mercury acetate (1.72 g, 5.39 mmol) and the mixture heated to 40° C. After 16 h, the reaction was cooled to ambient temperature, filtered and concentrated. The organic residue was dissolved in 100 ml of dichloromethane and washed with 50 mL of saturated aqueous sodium bicarbonate (2×). The combined organic extracts were dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol) to give the title compound (0.37 g). MS 309.1 (M+1).

reactant | methyl 3-[(methylamino)carbonothioyl]-5-(5-methylpyridin-2-yl)benzoate | 3.00 mmol, 0.90 g | CNC(=S)C=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C16H16N2O2S
reactant | formic hydrazide | 8.99 mmol, 0.54 g | C(=O)NN | CH4N2O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | mercury acetate | 5.39 mmol, 1.72 g | C(C)(=O)[O-].[Hg+]
product | Methyl 3-(5-methylpyridin-2-yl)-5-(4-methyl-4H-1,2,4-triazol-3-yl)benzoate | 0.37 g | CC=1C=CC(=NC1)C=1C=C(C(=O)OC)C=C(C1)C1=NN=CN1C | C17H16N4O2
